US06294555B1
Preparation of 4-amino-5-chloro-2-methoxy-N-[1-(1-phenylcarbamoyl-4-piperidinylmethyl)-4-piperidinyl]benzamide
To a solution of chloromethyl N-phenylcarbamate (220 mg), which is prepared by the method disclosed in Synth. Commun., 1996, 26, 4253, in ethanol (20 ml) is added dropwise a solution of 4-amino-5-chloro-2-methoxy-N-[1-(4-piperidinylmethyl)-4-piperidinyl]benzamide (910 mg) in ethanol (10 ml) at room temperature, and the mixture is stirred at room temperature for 7 hours. The mixture is concentrated to dryness under reduced pressure, and the residue is dissolved in chloroform, washed with water and a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and the solvent is evaporated under reduced pressure. The residue is purified by silica gel column chromatography (eluent; chloroform:methanol=30:1) to give the desired compound (480 mg) as white amorphous.

reactant | chloromethyl N-phenylcarbamate | 220 mg | C1(=CC=CC=C1)NC(OCCl)=O | C8H8ClNO2
reactant | 4-amino-5-chloro-2-methoxy-N-[1-(4-piperidinylmethyl)-4-piperidinyl]benzamide | 910 mg | NC1=CC(=C(C(=O)NC2CCN(CC2)CC2CCNCC2)C=C1Cl)OC | C19H29ClN4O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-amino-5-chloro-2-methoxy-N-[1-(1-phenylcarbamoyl-4-piperidinylmethyl)-4-piperidinyl]benzamide | 480 mg | NC1=CC(=C(C(=O)NC2CCN(CC2)CC2CCN(CC2)C(NC2=CC=CC=C2)=O)C=C1Cl)OC | C26H34ClN5O3
